US06869967B2
To an ice-cooled solution of 3-(3-hydroxyphenyl)propionic acid (20.0 g, 120 mmol) in ethanol was dropwise added thionyl chloride (8.8 ml, 120 mmol). The mixture was stirred at room temperature over night, concentrated in vacuo and submitted to flash chromatography (10% ethyl acetate in toluene eluent) to give 23.3 g of 3-(3-hydroxy-phenyl)propionic acid ethyl ester.

reactant | 3-(3-hydroxyphenyl)propionic acid | 120 mmol, 20.0 g | OC=1C=C(C=CC1)CCC(=O)O | C9H10O3
reactant | thionyl chloride | 120 mmol, 8.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
product | 3-(3-hydroxy-phenyl)propionic acid ethyl ester | 23.3 g | C(C)OC(CCC1=CC(=CC=C1)O)=O | C11H14O3
